US04628057
(3RS)-2-[(2-(Dimethylamino)ethylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 6, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (2.16 g), 10N NaOH (2 ml), dimethylsulfoxide (6 ml), carbon disulfide (912 mg) and 2-(dimethylamino)ethyl chloride hydrochloride (1.73 g) are reacted. The precipitates are collected by filtration, washed with water and ethanol, and then dried to give the title compound (3.11 g, quantitatively) as yellow powder.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 2.16 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | NaOH | 10N, 2 ml | [OH-].[Na+]
reactant | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 1.73 g | Cl.CN(CCCl)C
reactant | carbon disulfide | 912 mg | C(=S)=S | CS2
product | (3RS)-2-[(2-(Dimethylamino)ethylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | CN(CCSC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O)C | C17H21N3O2S2
